US04493803
25 g of vinylphosphonic acid and 70 g of diethyl 2-acetoxyethanephosphonate were heated with stirring to 180° C. 252 g of diethyl 2-acetoxyethanephosphonate were then slowly added dropwise over 14 hours while the temperature gradually increased to 200° C. and ethyl acetate distilled off. The mixture was then stirred for 9 hours at 190° C. 190 g of crude monoethyl vinylphosphonate were obtained. Distillation produced 128 g of ethyl acetate and additionally 8 g of light ends which were trapped in a cold trap downstream from the apparatus. 95 g of the crude monoethyl vinylphosphonate and 124 g of triethyl orthoformate were refluxed for 8 hours at about 75° C. The temperature was then gradually increased in the course of 5.5 hours to 150° C. while ethyl acetate and ethanol distilled off. A further 100 g of triethyl orthoformate were then added at room temperature and the mixture was gradually heated again to 150° C. while light ends distilled off. A cold trap downstream from the apparatus collected less that 1 g. The mixture was then distilled and 96.5 g of diethyl vinylphosphonate were obtained. This corresponded to a yield of about 70%, relative to the amount of vinylphosphonic acid and diethyl 2-acetoxyethanephosphonate started with. During the reaction with the orthoester, about 160 g distilled off which contained 28 percent of ethanol and about 10 percent of diethyl ether in addition to about 60 percent of ethyl formate.

reactant | monoethyl vinylphosphonate | 95 g | C(=C)P(OCC)([O-])=O
reactant | triethyl orthoformate | 124 g | C(OCC)(OCC)OCC | C7H16O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | diethyl vinylphosphonate | 96.5 g, yield of about 70% | C(=C)P(OCC)(OCC)=O | C6H13O3P
